US07482341B2
N-(5-Ethoxymethyl-6-methyl-pyridin-2-yl)-3,5-bis-trifluoromethyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 5-ethoxymethyl-6-methyl-pyridin-2-ylamine (0.07 g) and 3,5-di(trifluoromethyl)-benzenesulfonyl chloride (0.145 g) as an off-white solid (0.032 g). MS (ESI−): 441.1 ([M−H]−)

reactant | 5-ethoxymethyl-6-methyl-pyridin-2-ylamine | 0.07 g | C(C)OCC=1C=CC(=NC1C)N | C9H14N2O
reactant | 3,5-di(trifluoromethyl)-benzenesulfonyl chloride | 0.145 g | FC(C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)Cl)(F)F | C8H3ClF6O2S
product | N-(5-Ethoxymethyl-6-methyl-pyridin-2-yl)-3,5-bis-trifluoromethyl-benzenesulfonamide | C(C)OCC=1C=CC(=NC1C)NS(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C17H16F6N2O3S
